US09120788B2
Step 1. Synthesis of 3-(4-chloro-3-fluorophenyl)-2-(trichloromethyl)-3H-imidazo[4,5-b]pyridine (C20)
Methyl 2,2,2-trichloroethanimidoate (0.743 mL, 6.00 mmol) was added to a solution of N2-(4-chloro-3-fluorophenyl)pyridine-2,3-diamine (C12) (951 mg, 4.00 mmol) in acetic acid (4 mL), and the reaction mixture was stirred at room temperature for 5 hours. After concentration in vacuo, the residue was purified via chromatography on silica gel (Gradient: 5% to 100% ethyl acetate in heptane) to afford the product as a white solid. Yield: 1.04 g, 2.85 mmol, 71%. LCMS m/z 366.0 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.49 (dd, J=4.7, 1.5 Hz, 1H), 8.27 (dd, J=8.1, 1.5 Hz, 1H), 7.64 (ddd, J=8.5, 7.8, 0.3 Hz, 1H), 7.42 (dd, J=8.1, 4.7 Hz, 1H), 7.39 (ddd, J=8.8, 2.4, 0.2 Hz, 1H), 7.32 (ddd, J=8.5, 2.4, 1.3 Hz, 1H).

reactant | Methyl 2,2,2-trichloroethanimidoate | 6.00 mmol, 0.743 mL | ClC(C(OC)=N)(Cl)Cl | C3H4Cl3NO
reactant | N2-(4-chloro-3-fluorophenyl)pyridine-2,3-diamine | 4.00 mmol, 951 mg | ClC1=C(C=C(C=C1)NC1=NC=CC=C1N)F | C11H9ClFN3
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
product | 3-(4-chloro-3-fluorophenyl)-2-(trichloromethyl)-3H-imidazo[4,5-b]pyridine | ClC1=C(C=C(C=C1)N1C(=NC=2C1=NC=CC2)C(Cl)(Cl)Cl)F | C13H6Cl4FN3
